US06833370B1
(2S,3S)-1-(tert-butoxycarbonyl)-3-hydroxy-2-pyrrolidinecarboxylic acid
trans-3-Hydroxy-(L)-proline (10.0 g, 76.3 mmol) in THF (50 mL) was treated with sodium hydroxide (3.36 g, 84 mmol) in H2O (34 mL) and then treated with di-tert-butyl dicarbonate (16.63 g, 76.3 mmol) portionwise. After stirring at ambient temperature for 10 hours, the mixture was concentrated under reduced pressure to remove the THF. The residue was acidified to pH 2-3 with saturated KHSO4, and extracted with ethyl acetate (2×200 mL). The organic extracts were combined, washed with brine (2×30 mL) and concentrated to provide the title compound as a white solid (12.3 g, 70%). mp 156-157° C.

reactant | trans-3-Hydroxy-(L)-proline | 76.3 mmol, 10.0 g | O[C@@H]1[C@H](NCC1)C(=O)O | C5H9NO3
reactant | sodium hydroxide | 84 mmol, 3.36 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 76.3 mmol, 16.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 34 mL | O | H2O
product | (2S,3S)-1-(tert-butoxycarbonyl)-3-hydroxy-2-pyrrolidinecarboxylic acid | 12.3 g, 70% | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)C(=O)O | C10H17NO5
